US05843944
10,11-Dihydro-10-[4-[[[(2-methylphenyl]amino]carbonyl]amino]benzoyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 0.93 g 10,11-dihydro-10-(4-amino-3-methylbenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine and 0.37 g of o-tolyl isocyanate in 50 ml of tetrahydrofuran is heated at reflux under argon for 24 hours. The volatiles are evaporated in vacuo to a residue which is dissolved in methylene chloride and passed through a pad of hydrous magnesium silicate. Hexane is added to the filtrate at the boil to give 0.68 g of the desired product as crystals, m.p. 155°-158° C.

reactant | 10,11-dihydro-10-(4-amino-3-methylbenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.93 g | NC1=C(C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)C | C20H19N3O
reactant | o-tolyl isocyanate | 0.37 g | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 10,11-Dihydro-10-[4-[[[(2-methylphenyl]amino]carbonyl]amino]benzoyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.68 g | CC1=C(C=CC=C1)NC(=O)NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C27H24N4O2
